US08420690B2
To a solution of 2-chloro-1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrole-3-carboxylic acid (0.116 g, 0.48 mmol), 2-{(2S)-2-amino-3-[2-(trifluoromethyl)phenyl]propyl}-1H-isoindole-1,3(2H)-dione (0.186 g, 0.48 mmol)[prepared according to Preparation 5] and N,N-diisopropylethylamine (0.42 ml, 2.42 mmol) in dichloromethane (2.49 ml) at 25° C. was added bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (0.25 g, 0.53 mmol) in one portion. The solution stirred at 25° C. for 1 h and was then dry loaded onto silica and purified via column chromatography (silica, 30-70% EtOAc in hexanes) yielding 2-chloro-N-((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrole-3-carboxamide (250 mg, 0.38 mmol, 78% yield) as a clear oil: LCMS (ES) m/e 570, 572 (M, M+2)+.

reactant | 2-chloro-1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrole-3-carboxylic acid | 0.48 mmol, 0.116 g | ClC=1N(C(=CC1C(=O)O)C1=CC=NN1C)C | C10H10ClN3O2
reactant | 2-{(2S)-2-amino-3-[2-(trifluoromethyl)phenyl]propyl}-1H-isoindole-1,3(2H)-dione | 0.48 mmol, 0.186 g | N[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1=C(C=CC=C1)C(F)(F)F | C18H15F3N2O2
reactant | N,N-diisopropylethylamine | 2.42 mmol, 0.42 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 0.53 mmol, 0.25 g | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
solvent | dichloromethane | 2.49 ml | ClCCl | CH2Cl2
product | 2-chloro-N-((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrole-3-carboxamide | 0.38 mmol, 250 mg, 78% yield | ClC=1N(C(=CC1C(=O)N[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1=C(C=CC=C1)C(F)(F)F)C1=CC=NN1C)C | C28H23ClF3N5O3
